US06271225B1
2-Bromo-5-methyl-3-thiophenecarbonyl chloride (2.6 g), prepared in the same manner as above from 2-bromo-5-methyl-3-thiophenecarboxylic acid and thionyl chloride, was suspended in toluene (20 ml). This toluene solution was added dropwise to a solution of 2-amino-5-methoxyphenol (2.0 g) in pyridine (50 ml) at 0° C. The mixture was stirred at room temperature for 2.5 hours and the solvent was evaporated under reduced pressure. The precipitated crystals were collected by filtration, and washed with diluted hydrochloric acid and diisopropyl ether to give N-(2-hydroxy-4-methoxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide (2.1 g).

reactant | 2-Bromo-5-methyl-3-thiophenecarbonyl chloride | 2.6 g | BrC=1SC(=CC1C(=O)Cl)C | C6H4BrClOS
reactant | 2-bromo-5-methyl-3-thiophenecarboxylic acid | BrC=1SC(=CC1C(=O)O)C | C6H5BrO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-methoxyphenol | 2.0 g | NC1=C(C=C(C=C1)OC)O | C7H9NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-hydroxy-4-methoxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | 2.1 g | OC1=C(C=CC(=C1)OC)NC(=O)C1=C(SC(=C1)C)Br | C13H12BrNO3S
